US06784137B2
Sodium borohydride (0.174 g, 4.6 mmol) was added to a stirred suspension of 4-azido-2,3-dichloro-6-(5-oxazolyl)pyridine (1.17 g, 4.6 mmol) in methanol (25 mL) at room temperature. The solvent was removed and water (100 mL) was added to the residue. After 10 minutes of stirring, the solid formed was collected, washed with water and dried to give 4-amino-2,3-dichloro-6-(5-oxazolyl)pyridine (1.05 g, 4.55 mmol), mp 207-08° C.

reactant | Sodium borohydride | 4.6 mmol, 0.174 g | [BH4-].[Na+]
reactant | 4-azido-2,3-dichloro-6-(5-oxazolyl)pyridine | 4.6 mmol, 1.17 g | N(=[N+]=[N-])C1=C(C(=NC(=C1)C1=CN=CO1)Cl)Cl | C8H3Cl2N5O
solvent | methanol | 25 mL | CO | CH4O
product | 4-amino-2,3-dichloro-6-(5-oxazolyl)pyridine | 4.55 mmol, 1.05 g | NC1=C(C(=NC(=C1)C1=CN=CO1)Cl)Cl | C8H5Cl2N3O
